US08222245B2
1,1-Dimethylethyl 9-cyano-2,3-dihydro-1,4-benzoxazepine-4(5H)-carboxylate
A solution of 1,1-dimethylethyl 9-{[(trifluoromethyl)sulfonyl]oxy}-2,3-dihydro-1,4-benzoxazepine-4(5H)-carboxylate (Preparation 63) (9 g, 22.65 mmol), zinc cyanide (3.99 g, 34.0 mmol) and tetrakis(triphenylphosphine)palladium(0) (2.62 g, 2.265 mmol) in DMF (90 ml) was heated at 80° C. for 24 hrs. The reaction was cooled, diluted with EtOAc (400 ml) and water (400 ml) and filtered to remove insoluble material. The filtrate was separated and the organic layer washed with water, dried over magnesium sulphate and evaporated. Purified by flash chromatography eluting with EtOAc/iso-hexane 1:9 then 1:3 to give the title compound (5.1 g) as a colourless oil. MS (ES): C15H18N2O3 requires 274; found 174 [M+H−100]+.

reactant | 1,1-dimethylethyl 9-{[(trifluoromethyl)sulfonyl]oxy}-2,3-dihydro-1,4-benzoxazepine-4(5H)-carboxylate | 22.65 mmol, 9 g | FC(S(=O)(=O)OC1=CC=CC=2CN(CCOC21)C(=O)OC(C)(C)C)(F)F | C15H18F3NO6S
reactant | DMF | 90 ml | CN(C)C=O | C3H7NO
solvent | EtOAc | 400 ml | CCOC(=O)C | C4H8O2
solvent | water | 400 ml | O | H2O
catalyst | zinc cyanide | 34.0 mmol, 3.99 g | [C-]#N.[Zn+2].[C-]#N
catalyst | tetrakis(triphenylphosphine)palladium(0) | 2.265 mmol, 2.62 g | C=1C=CC(=CC1)[P](C=2C=CC=CC2)(C=3C=CC=CC3)[Pd]([P](C=4C=CC=CC4)(C=5C=CC=CC5)C=6C=CC=CC6)([P](C=7C=CC=CC7)(C=8C=CC=CC8)C=9C=CC=CC9)[P](C=1C=CC=CC1)(C=1C=CC=CC1)C=1C=CC=CC1
product | 1,1-Dimethylethyl 9-cyano-2,3-dihydro-1,4-benzoxazepine-4(5H)-carboxylate | 5.1 g | C(#N)C1=CC=CC=2CN(CCOC21)C(=O)OC(C)(C)C | C15H18N2O3
